US08835470B2
(R/S)-2-Hydroxy-2-(4-(5-(1-phenyl-5-(trifluoromethyl)-1H-pyrazol-4-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid (Int-VII, 40 mg, 0.093 mmol), (S)-1-aminopropan-2-ol (10.47 mg, 0.139 mmol), HATU (45.9 mg, 0.121 mmol), and 4-methylmorpholine (37.6 mg, 0.372 mmol) were added to DMF (1 mL). It was stirred for 20 min before additional HATU (35.3 mg, 0.093 mmol) was added. After stirring for an additional 10 min, it was purified by prep HPLC (PHENOMENEX® Luna 5u 21.2×100 mm, gradient elution with Method 1—MeOH/water containing 0.1% trifluoroacetic acid as defined above, 0% B to 100% B over 15 min, 20 mL/min, 220 nM, product retention 15.1 min) to provide (R/S)-2-hydroxy-N-((S)-2-hydroxypropyl)-2-(4-(5-(1-phenyl-5-(trifluoromethyl)-1H-pyrazol-4-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide (20 mg, 0.041 mmol, 43.8% yield) as a mixture of diastereomers: LCMS=488.1 [M+H]+; 1H NMR (400 MHz, methanol-d4) δ ppm 8.46 (1 H, s), 8.12 (2 H, d, J=8.35 Hz), 7.52-7.72 (7 H, m), 5.14 (1 H, s), 3.78-3.94 (1 H, m), 3.13-3.34 (2 H, m), 1.13 (3 H, d, J=7.47 Hz); HPLC peak RT=7.0 min (Method A).

reactant | (R/S)-2-Hydroxy-2-(4-(5-(1-phenyl-5-(trifluoromethyl)-1H-pyrazol-4-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid | 0.093 mmol, 40 mg | OC(C(=O)O)C1=CC=C(C=C1)C1=NOC(=N1)C=1C=NN(C1C(F)(F)F)C1=CC=CC=C1 | C20H13F3N4O4
reactant | (S)-1-aminopropan-2-ol | 0.139 mmol, 10.47 mg | NC[C@H](C)O | C3H9NO
reactant | HATU | 0.121 mmol, 45.9 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-methylmorpholine | 0.372 mmol, 37.6 mg | CN1CCOCC1 | C5H11NO
reactant | HATU | 0.093 mmol, 35.3 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R/S)-2-hydroxy-N-((S)-2-hydroxypropyl)-2-(4-(5-(1-phenyl-5-(trifluoromethyl)-1H-pyrazol-4-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide | 0.041 mmol, 20 mg, 43.8% yield | OC(C(=O)NC[C@H](C)O)C1=CC=C(C=C1)C1=NOC(=N1)C=1C=NN(C1C(F)(F)F)C1=CC=CC=C1 | C23H20F3N5O4
